US04960775
A mixture of 1-amino-3-isopropyloxazolo[4,3-a]phthalazinium tetrafluoroborate (1.58 g) and ethyl phenylpropiolate (1.74 g) in 1,3-dimethyl-imidazolin-2-one (30 ml) was maintained at 40° C. for 19 hours and then the resulting brown solution was poured into water (200 ml), and the mixture was extracted with a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (1:1 v/v; 3×200 ml). The extracts were combined, dried over magnesium sulphate, and evaporated, and the resulting residue was subjected to flash chromatography on silica gel, using as eluant a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (19:1 v/v), to give ethyl 3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine-2-carboxylate (0.72 g) in the form of a yellow solid, m.p. 141°-142° C. [Elemental analysis: C, 77.1; H, 6.24; N, 7.8%; calculated C, 77.1; H, 6.19; N, 7.8%; NMR (in CDCl3) : 0.93 (3H, t, J=7 Hz), 1.57 (6H, d, J=7 Hz), 4.08 (2H, q, J=7 Hz), 4.35 (1H, septet, J=7 Hz), 7.23-7.50 (8H, m), 7.60-7.66 (1H, m), 8.35 (1H, s); Mass spectrum (electron impact) m/z=358].

reactant | 1-amino-3-isopropyloxazolo[4,3-a]phthalazinium tetrafluoroborate | 1.58 g | F[B-](F)(F)F.NC=1OC(=[N+]2C1C1=CC=CC=C1C=N2)C(C)C
reactant | ethyl phenylpropiolate | 1.74 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | water | 200 ml | O | H2O
solvent | 1,3-dimethyl-imidazolin-2-one | 30 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | ethyl 3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine-2-carboxylate | 0.72 g | C(C)(C)C1=C(C(=C2N1N=CC1=CC=CC=C21)C2=CC=CC=C2)C(=O)OCC | C23H22N2O2
